US07977351B2
6-Phenyl-6H-thieno[2,3-c]furan-4-one
A solution of thiophene-3-carboxylic acid (2.00 g, 15.6 mmol) in THF (20 mL) is added dropwise to a cold (−80° C.) solution of lithium bistrimethylsilylamide (17.2 mL of a 2M solution 34 mmol) in THF (30 mL). The resulting pale yellow solution is warmed to −50° C. and is stirred at −50° C. for 1 hr during which time a white precipitate is formed. The reaction mixture is cooled to −80° C. and treated dropwise with benzaldehyde (3.0 mL). The white precipitate gradually disappeared during the addition. The reaction mixture is warmed to −20° C. and stirred for 30 min. The reaction mixture is then poured into aqueous 2M HCl solution (120 mL). The resulting mixture is stirred at room temperature while a stream of air is blown into the reaction vessel to assist in the evaporation of THF. The white precipitate which forms is collected by filtration and dissolved in Dichloromethane (20 mL) and Et3N (12 mL). The reaction mixture is treated with TsCl (3.42 g, 17.2 mmol) and stirred overnight. The reaction mixture is treated with NaHCO3 solution and the organic phase is collected, dried over Na2SO4, filtered and concentrated. The residue is purified by chromatography (silica gel, 10% ethylacetate/hexane) to give the title compound (0.39 g, 12%).

reactant | thiophene-3-carboxylic acid | 15.6 mmol, 2.00 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | lithium bistrimethylsilylamide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzaldehyde | 3.0 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 2M, 120 mL | Cl | ClH
reactant | TsCl | 17.2 mmol, 3.42 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-Phenyl-6H-thieno[2,3-c]furan-4-one | 0.39 g, 12% | C1(=CC=CC=C1)C1OC(C2=C1SC=C2)=O | C12H8O2S
